US07868188B2
N-{5-[5-(4-Cyanophenylsulfonylamino)pyridin-2-yl]-4-methyl-1,3-thiazol-2-yl}acetamide
Using an analogous procedure to that described in Example 83, N-[5-(5-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide was reacted with 4-cyanophenylsulfonyl chloride to give the title compound; 1H NMR Spectrum: (DMSOd6) 2.14 (s, 3H), 2.48 (s, 3H), 7.57 (m, 2H), 7.94 (d, 2H), 8.07 (d, 2H), 8.26 (m, 1H), 10.86 (br s, 1H), 12.06 (s, 1H); Mass Spectrum: M+H+ 414.

reactant | N-[5-(5-aminopyridin-2-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | NC=1C=CC(=NC1)C1=C(N=C(S1)NC(C)=O)C | C11H12N4OS
reactant | 4-cyanophenylsulfonyl chloride | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
product | N-{5-[5-(4-Cyanophenylsulfonylamino)pyridin-2-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)C1=C(N=C(S1)NC(C)=O)C | C18H15N5O3S2
